US06426360B1
Step 1 Preparation of 4-(Methylsulfonyl)phenylmethyl triphenylphosphonium Chloride
4-(Methylsulfonyl)benzyl chloride (Transworld Chemical) (121 mmol, 24.7 g) and triphenylphosphine (130 mmol, 34.1 g) were heated at reflux in toluene (125 ml) with stirring for 56 hours. The reaction was cooled, and the title compound was collect by filtration (48.0 g, 85%).

reactant | 4-(Methylsulfonyl)benzyl chloride | 121 mmol, 24.7 g | CS(=O)(=O)C1=CC=C(CCl)C=C1 | C8H9ClO2S
reactant | triphenylphosphine | 130 mmol, 34.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(Methylsulfonyl)phenylmethyl triphenylphosphonium Chloride | [Cl-].CS(=O)(=O)C1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H24O2PS.ClH/c1-30(27,28)26-19-17-22(18-20-26)21-29(23-11-5-2-6-12-23,24-13-7-3-8-14-24)25-15-9-4-10-16-25;/h2-20H,21H2,1H3;1H/q+1;/p-1
